US06995179B2
1) Synthesis of 5-(3-phenyloxypropyl) 3-(2-cyanoethyl) 4-(3-chlorophenyl)-2,6-dimethyl-1,4-dihydropyridine-3,5-dicarboxylate:
250 mg (0.69 mmol) of mono(2-cyanoethyl) 4-(3-chlorophenyl)-2,6-dimethyl-1,4-dihydropyridine-3,5-dicarboxylate, 130 mg (0.85 mmol) of 3-phenyloxypropanol, 162 mg (0.84 mmol) of 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride and 21 mg (0.17 mmol) of 4-dimethylaminopyridine were stirred together in 10 ml of dichloromethane at room temperature overnight. Water was added to the reaction liquid. After the extraction with dichloromethane, the organic layer was dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by the silica gel chromatography (hexane/ethyl acetate=2/1) to obtain the title compound.

reactant | mono(2-cyanoethyl) 4-(3-chlorophenyl)-2,6-dimethyl-1,4-dihydropyridine-3,5-dicarboxylate | 0.69 mmol, 250 mg | ClC=1C=C(C=CC1)C1C(=C(NC(=C1C(=O)[O-])C)C)C(=O)OCCC#N
reactant | 3-phenyloxypropanol | 0.85 mmol, 130 mg | C1(=CC=CC=C1)OCCCO | C9H12O2
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 0.84 mmol, 162 mg | Cl.CN(CCCN=C=NCC)C
reactant | Water | O | H2O
catalyst | 4-dimethylaminopyridine | 0.17 mmol, 21 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 5-(3-phenyloxypropyl) 3-(2-cyanoethyl) 4-(3-chlorophenyl)-2,6-dimethyl-1,4-dihydropyridine-3,5-dicarboxylate | ClC=1C=C(C=CC1)C1C(=C(NC(=C1C(=O)OCCCOC1=CC=CC=C1)C)C)C(=O)OCCC#N | C27H27ClN2O5
